US07820649B2
To a solution of 5-fluoro-2-nitrobenzoic acid (370 mg, 2.0 mmol) in anhydrous DMF (5 mL) was added 1-hydroxybenzotriazole hydrate (330 mg, 2.4 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (460 mg, 2.4 mmol) and 2-amino-N-isopropylacetamide (INTERMEDIATE I.1) (230 mg, 2.0 mmol). The resultant mixture was stirred at room temperature for 18 h. The reaction mixture was concentrated in vacuo, the crude yellow residue dissolved in EtOAc (20 mL) and washed with dilute HCl (aq.) (3×5 mL), sat. NaHCO3 (aq.) (3×5 mL) and brine (1×5 mL). The organic layer was dried (Na2SO4), concentrated in vacuo and purified by chromatography on silica gel with MeOH:DCM (1:19, v/v) as eluent to afford 5-fluoro-N-(isopropylcarbamoylmethyl)-2-nitrobenzamide (INTERMEDIATE IV.1) (400 mg, 1.4 mmol, 70%) as yellow solid.

reactant | 5-fluoro-2-nitrobenzoic acid | 2.0 mmol, 370 mg | FC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C7H4FNO4
reactant | 1-hydroxybenzotriazole hydrate | 2.4 mmol, 330 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.4 mmol, 460 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-amino-N-isopropylacetamide | 2.0 mmol, 230 mg | NCC(=O)NC(C)C | C5H12N2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-fluoro-N-(isopropylcarbamoylmethyl)-2-nitrobenzamide | 1.4 mmol, 400 mg, 70% | FC=1C=CC(=C(C(=O)NCC(NC(C)C)=O)C1)[N+](=O)[O-] | C12H14FN3O4
